Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___
 
Chief Complaint:
Diarrhea  

 
Major Surgical or Invasive Procedure:
None 
 
History of Present Illness:
Mr. ___ is a ___ yo man with HCV cirrhosis c/b HCC currently 
on Gemcitabine/Doxil who is admitted from the ___ with nausea, 
diarrhea, and inability to tolerate po.  
Patient was recently admitted ___ to ___ for several weeks of 
progressive abdominal pain. Pain was thought due to HCC and 
associated PVT +/- gastritis. He was also found to have 
complicated UTI initially treated with ceftriaxone before 
transitioning to po Bactrim. He also underwent ___ 
paracentesis and was started on nadolol. Hospitalization 
otherwise complicated by new urinary retention requiring 
catheterization and hyponatrmeia.  
After discharge, his abdominal pain returned. He was also unable 
to fill his medication and has not been taking his bactrim and 
anti-emetics. He also developed ___ episodes daily of small 
volume liquid diarrhea, increasing nausea without emesis, and 
inability to tolerate po. He was referred back to the ___ for 
furthur management.  
 
In the ___, initial VS were pain 6, T 98.2, HR 77, BP 118/70, RR 
20, O2 99%RA. Labs were notable for: WBC 1.4 (40.5%N), HCT 28.7, 
Na 125, K 5.2, ALT 146, AST 106, ALP 155, TBIli 1.4. Lactate 
2.0, UA 6RBC 9WBC Few bacteria neg nitrate. Patient received 3L 
LR, 1 g CTX, and 4mg zofran before transfer to OMED for further 
management.  
On arrival to the floor, patient reports ___ abdominal pain 
along with nausea and diarrhea as above. He denies recent fevers 
or chills. No headaches. No dysphagia. No CP or SOB. He has a 
foley in place since his last hospitalization but denies 
discomofrt or change in urine output. No new joint pains. 
Remainder of 10 point ROS is unremarkable.  

 
Past Medical History:
Hepatitis C - s/p failed trial of ___ 
GIB s/p 3U PRBCS during admission in ___/ S/p ___ at
? ___. He does not know what it showed
 
Social History:
___
___ History:
Mother died of dementia at ___.  
His father died of kidney failure at age ___

 
Physical Exam:
ON ADMISSION:
VS: T 97.9 BP 100/58 HR 67 RR 18 O2 100%RA  
GENERAL: Pleasant, tired appearing, NAD  
HEENT: NC/AT, EOMI, PERRL, dry MM  
CARDIAC: RRR, normal S1 & S2, without murmurs, S3 or S4  
LUNG: clear to auscultation, no wheezes or rhonchi  
ABD: +BS, soft, mildly distended, Diffusely TTP LLQ/RLQ, no 
rebound or guarding  
EXT: No lower extremity pitting edema  
PULSES: 2+DP pulses bilaterally  
NEURO: CN II-XII intact, good attention,  
SKIN: Warm and dry, coalescing erythematous macualues over arms 
and legs, non pruritic 

ON DISCHARGE:
VS: Tmax 98.4 Tc 98.4 HR 65-70 BP ___ RR 18 SpO2 
97-100% RA, I/O 24h 520/450, 8h NR/350
GENERAL: Pleasant, in NAD
HEENT: NC/AT, EOMI, PERRL, dry MM
CARDIAC: RRR, normal S1 & S2, without murmurs, S3 or S4
LUNG: clear to auscultation, no wheezes or rhonchi
ABD: +BS, soft, increased abdominal distension, no rebound or 
guarding
EXT: No lower extremity pitting edema
PULSES: 2+DP pulses bilaterally
NEURO: CN II-XII intact, good attention,
SKIN: No rashes, petechiae, or ecchymoses
 
Pertinent Results:
ADMISSION LABS:
___ 07:40PM BLOOD WBC-1.4*# RBC-4.16* Hgb-9.6* Hct-28.7* 
MCV-69* MCH-23.1* MCHC-33.5 RDW-20.1* Plt ___
___ 07:40PM BLOOD Neuts-40.5* Lymphs-56.7* Monos-1.0* 
Eos-1.6 Baso-0.3
___ 07:40PM BLOOD Hypochr-2+ Anisocy-1+ Poiklo-1+ 
Macrocy-NORMAL Microcy-1+ Polychr-NORMAL Target-2+ 
Acantho-OCCASIONAL
___ 07:40PM BLOOD ___ PTT-28.3 ___
___ 07:40PM BLOOD Glucose-124* UreaN-22* Creat-0.9 Na-125* 
K-5.2* Cl-94* HCO3-22 AnGap-14
___ 07:40PM BLOOD ALT-146* AST-106* AlkPhos-155* 
TotBili-1.4
___ 07:40PM BLOOD Albumin-2.8*
___ 08:25PM URINE Color-Yellow Appear-Hazy Sp ___
___ 08:25PM URINE Blood-TR Nitrite-NEG Protein-30 
Glucose-NEG Ketone-TR Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-SM 
___ 08:25PM URINE RBC-6* WBC-9* Bacteri-FEW Yeast-NONE 
Epi-0
___ 08:25PM URINE Mucous-OCC

IMAGING:
NONE

MICROBIOLOGY:

___ 7:40 pm BLOOD CULTURE

   Blood Culture, Routine (Pending): 

___ 8:25 pm URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    NO GROWTH. 

___ 8:42 pm BLOOD CULTURE

   Blood Culture, Routine (Pending): 

___ 10:25 pm STOOL     CONSISTENCY: NOT APPLICABLE
      Source: Stool. 

                            **FINAL REPORT ___

   C. difficile DNA amplification assay (Final ___: 
      Reported to and read back by ___ ___ ___ 
12:38PM. 
      CLOSTRIDIUM DIFFICILE. 
         Positive for toxigenic C. difficile by the Illumigene 
DNA
         amplification.            (Reference Range-Negative). 

   FECAL CULTURE (Final ___:    NO SALMONELLA OR SHIGELLA 
FOUND. 

   CAMPYLOBACTER CULTURE (Final ___:    NO CAMPYLOBACTER 
FOUND. 

DISCHARGE LABS:
___ 06:12AM BLOOD WBC-3.8*# RBC-3.85* Hgb-9.1* Hct-27.6* 
MCV-72* MCH-23.5* MCHC-32.8 RDW-19.9* Plt ___
___ 06:12AM BLOOD Neuts-45* Bands-0 Lymphs-44* Monos-5 
Eos-5* Baso-1 ___ Myelos-0 NRBC-1*
___ 06:12AM BLOOD Hypochr-2+ Anisocy-1+ Poiklo-NORMAL 
Macrocy-NORMAL Microcy-1+ Polychr-NORMAL Target-1+
___ 06:12AM BLOOD Plt Smr-LOW Plt ___
___ 06:12AM BLOOD Glucose-99 UreaN-12 Creat-0.8 Na-129* 
K-4.5 Cl-98 HCO3-25 AnGap-11
___ 06:12AM BLOOD Calcium-7.8* Phos-2.8 Mg-1.___ yo man with HCV cirrhosis c/b HCC currently on 
Gemcitabine/Doxil who is admitted from the ___ with nausea, 
diarrhea, and inability to tolerate po.

#C. diff/Diarrhea: Patient presenting with greater than 3 loose 
stools per day. Patient empirically started on Cipro/Flagyl in 
___. C. diff positive and subsequently treated with Vancomycin 
125 mg PO QID x 14 days after abx completed for UTI (last day 
___. At the time of discharge, the patient's diarrhea was 
resolving.

# Hypotension: Patient with relative hypotension in ___ 
responsive to 3 L LR. Likely due to combination of 
antihypertensive meds and hypovolemia from diarrhea. 
The patient's home spironolactone, lasix, and nadolol were 
initially held. The patient's home Spironolactone was decreased 
to 25 mg PO QDaily for BP range mid ___ at discharge. The 
patient was told to check BP at home and with ___. Instructed to 
take lasix, spironolactone, nadolol only if SBP>100 and 
asymptomatic. 

# UTI: Diagnosed with complicated UTI on prior admission. Urine 
Cx on ___ negative (first dose abx ___. Plan was for po 
bactim through ___, but switched to Ciprfloxacin (given PCN 
allergy), last day ___.

# ABDOMINAL PAIN: Presumably from ___ and associated tumor 
thrombus invading portal vein system. Colitis and/or gastritis 
may also be exacerbating pain. Prior paracentesis with no sign 
of SBP and LFT's continue to downtrend. The patient's pain was 
managed with Oxycontin 20 mg PO TID, PO oxycodone/IV morphine 
for breakthrough

# HYPONATREMIA: Na 125 on admission Likely due to chronic liver 
disease exacerbated by hypovolemia. Na was improving at the time 
of discharge.

#URINARY RETENTION: Developed during last hospitalization. DC'd 
with foley and plan for urology ___ as outpatient. Likely 
narotic-related.

# HEPATOCELLULAR CARCINOMA: Diagnosed in ___. Pt currently 
C2D5 gem/doxil. No chemotherapy was administered during this 
hospitalization.

# HCV CIRRHOSIS: Not decompensated. Home cirrhotic medications 
were initially held as above but continued at discharge.

# ANXIETY:
-Continued home Lorazepam 0.5 mg PO Q6H:PRN Anxiety

#Neutropenia: Patient received Gemcitabine/Doxil on ___. ANC 
nadir at 700s during this hospitalization. Likely chemo-related. 
Resolved at discharge. 

TRANSITIONAL ISSUES:
[]CODE STATUS: Full
[]Bactrim DS discontinued 
[]Vancomycin 125 mg PO QID x 14 days after abx completed for UTI 
(last day ___ 
[]Patient discharged with Ciprofloxacin 500 mg PO Q12H (last day 
___ for complicated UTI 
[]Home Spironolactone decreased to 25 mg PO QDaily for BP range 
mid ___ told to check BP at home and with ___. Instructed 
to take lasix, spironolactone, nadolol only if SBP>100 and 
asymptomatic. 
[]Patient will have Urology followup on ___ for urinary 
retention and is discharged with foley as on prior admission. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Furosemide 20 mg PO DAILY 
2. Lorazepam 0.5 mg PO Q6H:PRN Anxiety 
3. NexIUM (esomeprazole magnesium) 40 mg oral DAILY 
4. Rifaximin 550 mg PO BID 
5. Spironolactone 50 mg PO DAILY 
6. Docusate Sodium 100 mg PO BID 
7. Nadolol 40 mg PO DAILY 
8. OxyCODONE SR (OxyconTIN) 20 mg PO Q8H 
9. Polyethylene Glycol 17 g PO DAILY:PRN Constipation 
10. Senna 8.6 mg PO BID 
11. Sucralfate 1 gm PO TID Before meals 
12. OxycoDONE (Immediate Release)  5 mg PO Q6H:PRN Pain 
13. Sulfameth/Trimethoprim DS 1 TAB PO BID 

 
Discharge Medications:
1. Vancomycin Oral Liquid ___ mg PO Q6H 
RX *vancomycin 125 mg 1 capsule(s) by mouth every six (6) hours 
Disp #*76 Capsule Refills:*0
2. Ciprofloxacin HCl 500 mg PO Q12H 
RX *ciprofloxacin HCl 500 mg 1 tablet(s) by mouth twice a day 
Disp #*9 Tablet Refills:*0
3. Furosemide 20 mg PO DAILY 
Hold if systolic blood pressure <100 or symptomatic. 
4. Lorazepam 0.5 mg PO Q6H:PRN Anxiety 
5. Nadolol 40 mg PO DAILY 
Hold if systolic blood pressure <100 or lightheaded. 
6. OxycoDONE (Immediate Release)  5 mg PO Q6H:PRN Pain 
7. OxyCODONE SR (OxyconTIN) 20 mg PO Q8H 
8. Rifaximin 550 mg PO BID 
9. Prescription for Blood Pressure Cuff
Prescription for Blood Pressure Cuff: ICD-9 Code Hypotension 
458.9. 
10. Spironolactone 25 mg PO DAILY 
Hold if systolic blood pressure less than 100. 
11. Docusate Sodium 100 mg PO BID 
12. NexIUM (esomeprazole magnesium) 40 mg oral DAILY 
13. Polyethylene Glycol 17 g PO DAILY:PRN Constipation 
14. Senna 8.6 mg PO BID 
15. Sucralfate 1 gm PO TID Before meals 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary:
Clostridium Difficile Infection
Urinary Tract Infection
Hyponatremia
Leukopenia

Secondary:
Urinary retention
Hepatocellular Carcinoma
Hepatitis C Cirrhosis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure caring for you during your hospitalization at 
the ___. As you know, you were 
admitted with nausea, vomiting, and diarrhea. You were found to 
have an infection in your gut called C. diff. We treated you 
with antibiotics, fluid, and nausea medications and your 
symptoms improved. Please continue to take your antibiotics. 
Please take your medications as instructed. Please take your 
blood pressures at home-your blood pressure was noted to be low 
during your hospital course.  Your spironolactone was decreased 
to 25 mg; check your blood pressure at home and take your 
spironolactone, lasix and nadolol only if your systolic blood 
pressure is greater than 100 and you are not experiencing any 
lightheadedness.  If your blood pressure is persistently low or 
you are having lightheadedness, please call your doctor. 

Sincerely,
Your ___ Care Team 
 
Followup Instructions:
___